US06734180B1
4-(2-indanylamino)thieno[3,4-d]pyrimidine
4-methylthiothieno[3,4-d]pyrimidine (90 mg, 0.50 mmol) (see J. Heterocyclic Chem., 30, 509 (1993)) and 2-aminoindan (200 mg, 1.5 mmol) in dry ethanol (4 ml) were heated to reflux under an argon atmosphere for 4 hours. The solvent was distilled off under reduced pressure and the residue obtained was purified by silica gel chromatography (ethyl acetate:methanol=20:1) to obtain the title compound (30 mg, 0.11 mmol) having the following physical properties;

reactant | 4-methylthiothieno[3,4-d]pyrimidine | 0.50 mmol, 90 mg | CSC=1C=2C(N=CN1)=CSC2 | C7H6N2S2
reactant | 2-aminoindan | 1.5 mmol, 200 mg | NC1CC2=CC=CC=C2C1 | C9H11N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-(2-indanylamino)thieno[3,4-d]pyrimidine | 0.11 mmol, 30 mg | C1C(CC2=CC=CC=C12)NC=1C=2C(N=CN1)=CSC2 | C15H13N3S
